US05962479
(1-Ethyl-propyl)-[6-methyl-3-nitro-2-(2,4,6-trimethyl-phenoxy)-pyridin-4yl]-amine
To a mixture of (2-chloro-6-methyl-3-nitro-pyridin-4-yl)-(1-ethyl-propyl)-amine (80 mg, 0.31 mmol) and 2,4,6-trimethylphenol (43 mg, 0.31 mmol) in 2ml of dry THF was added potassium tert-butoxide (35 mg, 0.31 mmol) and the resulting mixture was stirred at rt overnight. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give a yellow solid. The solid was purified through silica gel column chromatography using 6:4 ratio of chloroform:hexane as eluent to give 91 mg (83%) of the title compound as yellow solid, mp 16-162° C. 1H NMR (CDCl3) δ7.62 (d, 1H), 6.87 (s, 2H), 6.18 (s, 1H), 3.40 (m, 1H), 2.30 (s, 3H), 2.15 (s, 3H), 2.10 (s, 6H), 1.5-1.8 (m, 4H), 0.99 (t, 6H) ppm.

reactant | (2-chloro-6-methyl-3-nitro-pyridin-4-yl)-(1-ethyl-propyl)-amine | 0.31 mmol, 80 mg | ClC1=NC(=CC(=C1[N+](=O)[O-])NC(CC)CC)C | C11H16ClN3O2
reactant | 2,4,6-trimethylphenol | 0.31 mmol, 43 mg | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | potassium tert-butoxide | 0.31 mmol, 35 mg | CC(C)([O-])C.[K+]
solvent | THF | 2ml | C1CCOC1 | C4H8O
product | (1-Ethyl-propyl)-[6-methyl-3-nitro-2-(2,4,6-trimethyl-phenoxy)-pyridin-4yl]-amine | 91 mg, 83% | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)[N+](=O)[O-] | C20H27N3O3
